US05672742
Reaction was carried out in the same manner as in Example 1, except that methyl ester of α,α-bis(trifluoromethyl)-p-isobutylphenylacetic acid obtained in Reference Example 3 was used in place of methyl ester of α,α-bis(trifluoromethyl)phenylacetic acid obtained in Reference Example 2, whereby α-(trifluoromethyl)-p-isobutylphenylacetic acid was obtained in yield of 43%.

reactant | α,α-bis(trifluoromethyl)-p-isobutylphenylacetic acid | FC(C(C(=O)O)(C(F)(F)F)C1=CC=C(C=C1)CC(C)C)(F)F | C14H14F6O2
reactant | α,α-bis(trifluoromethyl)phenylacetic acid | FC(C(C(=O)O)(C(F)(F)F)C1=CC=CC=C1)(F)F | C10H6F6O2
product | α-(trifluoromethyl)-p-isobutylphenylacetic acid | yield of 43% | FC(C(C(=O)O)C1=CC=C(C=C1)CC(C)C)(F)F | C13H15F3O2
